US07419984B2
1-{4-[2-Amino-6-(2,5-dichloro-phenyl)-pyrimidin-4-yl-amino]-phenyl}-ethanone oxime
A mixture of 1-{4-[2-amino-6-(2,5-dichloro-phenyl)-pyrimidin-4-yl-amino]-phenyl}-ethanone, hydroxylamine hydrochloride, 0.6 M aqueous sodium hydroxide solution (2 ml), and ethanol (20 ml) was stirred 16 hours. The mixture was extracted with tetrahydrofuran (3×15 ml). The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on alumina eluting with 7% methanol-chloroform to provide the title compound (0.010 g, 10% yield). 1H NMR (DMSO-d6) δ 2.14 (s, 3H, CH3), 6.34 (s, 1H, Ar), 7.51-0.754 (m, 1H, Ar), 7.58-7.61 (m, 3H, Ar), 7.65 (d, 1H, J=2.5 Hz, Ar), 7.79 (d, 2H, J=8.8 Hz, Ar), 9.46 (s, 1H, NH), 11.02 (s, 1H, OH).

reactant | 1-{4-[2-amino-6-(2,5-dichloro-phenyl)-pyrimidin-4-yl-amino]-phenyl}-ethanone | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)C(C)=O)C1=C(C=CC(=C1)Cl)Cl | C18H14Cl2N4O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium hydroxide | 0.6 M, 2 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-{4-[2-Amino-6-(2,5-dichloro-phenyl)-pyrimidin-4-yl-amino]-phenyl}-ethanone oxime | 0.010 g, 10% yield | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)C(C)=NO)C1=C(C=CC(=C1)Cl)Cl | C18H15Cl2N5O
